US08445118B2
(10) Hafnium Catecholate
A solution of catechol (2.34 g, 2.12 mmol) and toluene (26 ml) was dehydrated by distilling 5 mL of the solution. Thereafter, 5.00 g (10.6 mmol) of hafnium(IV) butoxide was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (catechol-hafnium complex) was black in color. The yield amount was 4.18 g (10.6 mmol), and the yield percentage was 100%. Catechol-hafnium complex was dissolved into acetylacetone until saturated, and then filtered to be used as a coating liquid.

reactant | catechol | 2.12 mmol, 2.34 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | hafnium(IV) butoxide | 10.6 mmol, 5.00 g | [O-]CCCC.[Hf+4].[O-]CCCC.[O-]CCCC.[O-]CCCC
solvent | toluene | 26 ml | C1(=CC=CC=C1)C | C7H8
product | Hafnium Catecholate | C=1([O-])C([O-])=CC=CC1.[Hf+4].C=1([O-])C([O-])=CC=CC1 | InChI=1S/2C6H6O2.Hf/c2*7-5-3-1-2-4-6(5)8;/h2*1-4,7-8H;/q;;+4/p-4
